US08084644B2
Phenyl N-(4-iodophenyl)-3-(phenoxy)acrylimidate (0.50 g), bis(benzylideneacetone)palladium (0) (0.023 g) and cesium carbonate (0.82 g) were suspended to dioxane (15 ml). Tri-t-butylphosphine (10 wt % in hexane: 0.24 g) and tributyl (vinyl) tin (0.44 g) were added thereto and it was stirred for four hours at room temperature and 60° C. for five hours. The unsolved matter was filtered off, and the filtrate was concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (hexane:ethyl acetate=30:1) to obtain phenyl N-(4-vinylphenyl)-3-(phenoxy)acrylimidate (0.29 g) as yellow oil.

reactant | Phenyl N-(4-iodophenyl)-3-(phenoxy)acrylimidate | 0.50 g | IC1=CC=C(C=C1)N=C(C=COC1=CC=CC=C1)OC1=CC=CC=C1 | C21H16INO2
reactant | cesium carbonate | 0.82 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Tri-t-butylphosphine | 0.24 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | tributyl (vinyl) tin | 0.44 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | phenyl N-(4-vinylphenyl)-3-(phenoxy)acrylimidate | 0.29 g | C(=C)C1=CC=C(C=C1)N=C(C=COC1=CC=CC=C1)OC1=CC=CC=C1 | C23H19NO2
